US06699860B2
Preparation of Methyl 4-[(2R)-2-formyl-3,4-dihydro-2H-chromen-6-yl]benzoate
To a solution of dimethyl sulfoxide (33 mg, 0.425 mmol) in methylene chloride (2 mL) at −78° C., was added 0.14 mL of 2 M oxalyl chloride (0.272 mmol). After the solution had stirred at this temperature for 10 minutes, a solution of methyl 4-[(2R)-2-(hydroxymethyl)-3,4-dihydro-2H-chromen-6-yl]benzoate (50 mg, 0.17 mmol) in methylene chloride (2 mL) was added dropwise and the resulting mixture was stirred at −78° C. for an additional 1.6 hours. At this time, triethylamine (0.14 mL, 1.02 mmol) was added to the mixture slowly, and then it was allowed to warm to room temperature over 15 minutes. The solution of desired product was used directly in following steps.

reactant | dimethyl sulfoxide | 0.425 mmol, 33 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.272 mmol, 2 M, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-[(2R)-2-(hydroxymethyl)-3,4-dihydro-2H-chromen-6-yl]benzoate | 0.17 mmol, 50 mg | OC[C@@H]1OC2=CC=C(C=C2CC1)C1=CC=C(C(=O)OC)C=C1 | C18H18O4
reactant | triethylamine | 1.02 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-[(2R)-2-formyl-3,4-dihydro-2H-chromen-6-yl]benzoate | C(=O)[C@@H]1OC2=CC=C(C=C2CC1)C1=CC=C(C(=O)OC)C=C1 | C18H16O4
